US08471005B2
[4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Prepared by following a procedure analagous to Example 1220c by using 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine and Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester. 1H-NMR (DMSO) 69.7 (br s, 1H), 9.6 (s, 1H), 8.9 (s, 1H), 7.75 (d, J=7.5 Hz, 1H), 7.5 (m, 2H), 7.35 (d, J=9.1 Hz, 1H), 7.28 (d, J=9.2 Hz 1H), 7.2 (d, J=8.3 Hz, 1H), 7.1 (t, 1H), 7 (s, 2H), 3.97 (d, 1H), 3.85 (m, 2H), 3.77 (s, 3H), 3.6 (m, 1H), 3.1 (m, 1H), 3 (s, 3H), 2.2 (m, 1H), 2.0 (m, 1H), 1.9 (m, 1H), 1.65 (m, 1H); LC/MS (ESI+): 464 (M+H).

reactant | 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCC1N(CCC1)C | C12H17ClN2O
reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
product | [4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | ClC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OCC2N(CCC2)C | C25H26ClN5O2
